US06159971
8-Methoxy-5-nitro-3,4-dihydro-2H-1-benzopyran-3-carboxylic acid.
A mixture of 8-methoxy-5-nitro-3,4-dihydro-2H-1-benzopyran-3-carboxylic acid ethyl ester (5.8 g, 21 mmol) in ethanol (150 mL) and 2 M NaOH (15 mL) was heated to reflux for 30 min The solvent was evaporated in vacuo the residue dissolved in water. Acidification to pH 2 and extraction with ethyl acetate followed by evaporation of the solvent in vacuo gave 4.9 g (94% yield) of the title compound: mp 181-183° C.; EIMS (70 eV) m/z (relative intensity) 253 (55, M+).

reactant | 8-methoxy-5-nitro-3,4-dihydro-2H-1-benzopyran-3-carboxylic acid ethyl ester | 21 mmol, 5.8 g | C(C)OC(=O)C1COC2=C(C1)C(=CC=C2OC)[N+](=O)[O-] | C13H15NO6
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | NaOH | 2 M, 15 mL | [OH-].[Na+]
product | 8-Methoxy-5-nitro-3,4-dihydro-2H-1-benzopyran-3-carboxylic acid | 4.9 g, 94% yield | COC1=CC=C(C=2CC(COC21)C(=O)O)[N+](=O)[O-] | C11H11NO6
